US07109225B2
d] 3-{4-[2-(2-tert-Butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-2-isopropoxy-propionic acid
0.322 g of the above prepared 3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-2-isopropoxy-propionic acid ethyl ester (0.680 mmol) was dissolved in 3.4 ml of THF/EtOH=1/1, treated with 1.133 ml of 3N NaOH (5 eq.), and kept at ambient temperature for 1.5 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the organic layer washed with water, dried over sodium sulfate, and evaporated to dryness. Crystallization from hexane/AcOEt afforded finally 0.287 g of the title compound as a white solid of mp. 159–60°.

reactant | 3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-2-isopropoxy-propionic acid ethyl ester | 0.680 mmol | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C(C)(C)C)OC(C)C)=O | C26H35NO5S
reactant | NaOH | 3N, 1.133 ml, 5 eq. | [OH-].[Na+]
solvent | THF EtOH | 3.4 ml | C1CCOC1.CCO
product | 3-{4-[2-(2-tert-Butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-2-isopropoxy-propionic acid | 0.287 g | C(C)(C)(C)C=1OC(=C(N1)CCOC1=CC=C(C=2SC=CC21)CC(C(=O)O)OC(C)C)C | C24H31NO5S
